US06008231
1-(4-Fluorobenzyl)indole
A solution of 11.72 g (0.1 mol) of indole in 50 ml of dimethyl sulfoxide is added to a mixture of 2.64 g of sodium hydride (0.11 mol, mineral oil suspension) in 100 ml of dimethyl sulfoxide. The mixture is heated for 1.5 hours at 60° C., then allowed to cool and 15.9 g (0.11 mol) of 4-fluorobenzyl chloride are added dropwise. The solution is warmed to 60° C., allowed to stand overnight and then poured into 400 ml of water with stirring. The mixture is extracted several times with a total of 150 ml of methylene chloride, the organic phase is dried using anhydrous sodium sulfate and filtered, and the filtrate is concentrated in vacuo. The residue is distilled in a high vacuum: 21.0 g (96% of theory) B.p. (0.5 mm): 140° C.

reactant | indole | 0.1 mol, 11.72 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | sodium hydride | 0.11 mol, 2.64 g | [H-].[Na+]
reactant | 4-fluorobenzyl chloride | 0.11 mol, 15.9 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | water | 400 ml | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(4-Fluorobenzyl)indole | FC1=CC=C(CN2C=CC3=CC=CC=C23)C=C1 | C15H12FN
